US04861877
There was dissolved 1 g of (3R,4R)-1-tert-butyldimethylsilyl-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-4-trimethylsilyloxyazetidin-2-one into 10 ml of methylene chloride, thereto 0.85 g of dimethylaminopyridine and 0.71 g of acetic anhydride were added and the mixture was reacted for one day at 0° C. After the reaction mixture was diluted with hexane and washed successively with 5% aqueous solution of NaHCO3, an aqueous solution of hydrochloric acid of pH 4 and saturated solution of salt, the resultant was dried with magnesium sulfate and the solvent was distilled away to give 0.85 of a liquid crude product. The obtained liquid was purified by a silica-gel column chromatography (hexane:ether=30:1) to give 0.40 g of (3R,4R)-4-acetoxy-1-tert-butyldimethylsilyl)-3-[(R)-1-tert-butyldimethylsilyloxyethyl)azetidin-2-one as a colorless liquid.

reactant | (3R,4R)-1-tert-butyldimethylsilyl-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-4-trimethylsilyloxyazetidin-2-one | 1 g | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1O[Si](C)(C)C)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C20H45NO3Si3
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | dimethylaminopyridine | 0.85 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 0.71 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | hexane | CCCCCC | C6H14
product | 3-[(R)-1-tert-butyldimethylsilyloxyethyl)azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)C1C(NC1)=O | C11H23NO2Si
